datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"N#CC(C#N)=N[N:21](c1cccc(Cl)c1Cl)[H:20].c1c[nH+]c([O-:10])cn1>>N#CC(C#N)=N[N-:21]c1cccc(Cl)c1Cl.c1c[nH+]c([O:10][H:20])cn1 10=20;20,21=21",
"CC(C)(C)n1cc[n:10]c1.S=C1C=C(c2ccc([O:21][H:20])cc2)SS1>>CC(C)(C)n1cc[n+:10]([H:20])c1.S=C1C=C(c2ccc([O-:21])cc2)SS1 10=20;20,21=21",
"CCC(O)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1.C[NH+](C)CCNC(=O)/C=N/[O-:10]>>CCC(O)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1.C[NH+](C)CCNC(=O)/C=N/[O:10][H:20] 10=20;20,21=21",
"COc1ccc(CC[NH2:10])cc1OC.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc(CC[NH2+:10][H:20])cc1OC.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)Cc1ccc(C(C)C(=O)[O:21][H:20])cc1.CCCCCCCCCCCCCCCCCCCCCC[NH2:10]>>CC(C)Cc1ccc(C(C)C(=O)[O-:21])cc1.CCCCCCCCCCCCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)[O:21][H:20])c(O)c1.Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([Se-])[n:10]1>>Cc1ccc(C(=O)[O-:21])c(O)c1.Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([Se-])[n+:10]1[H:20] 10=20;20,21=21",
"COc1c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)cccc1[N+](=O)[O-].Cc1cc[n+:21]([H:20])nc1>>COc1c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])cccc1[N+](=O)[O-].Cc1cc[n:21]nc1 10=20;20,21=21",
"COc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(OC)cc3)o2)cc1.O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O-:10]>>COc1ccc(-c2c[n:21]c(-c3ccc(OC)cc3)o2)cc1.O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O:10][H:20] 10=20;20,21=21",
"CCc1cc2c(cc1[O-:10])OC(=O)C=C2C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCc1cc2c(cc1[O:10][H:20])OC(=O)C=C2C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[NH:10]C[Si](C)(C)C.CCCCCCCCC[NH+:21](Cc1ccc(C)cc1)[H:20]>>CC(C)[NH+:10](C[Si](C)(C)C)[H:20].CCCCCCCCC[NH:21]Cc1ccc(C)cc1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"CN(C)C1CC[NH:10]CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)C1CC[NH+:10]([H:20])CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH2+]CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH2+]CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1cnc2c([O-:10])nc([O-])nc21.Nc1nc2nc[n-]c2c([O-])[n+:21]1[H:20]>>Cn1cnc2c([O:10][H:20])nc([O-])nc21.Nc1nc2nc[n-]c2c([O-])[n:21]1 10=20;20,21=21",
"COc1cccc(C2SCC[NH:10]2)c1.O=C([O-])CC(c1ccccn1)[NH2+:21][H:20]>>COc1cccc(C2SCC[NH+:10]2[H:20])c1.O=C([O-])CC(c1ccccn1)[NH2:21] 10=20;20,21=21",
"CCC1CSC(C(C)C)=[N+:21]1[H:20].COc1c2ccccc2c2ccccc2[n:10]1>>CCC1CSC(C(C)C)=[N:21]1.COc1c2ccccc2c2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CCC(C)[NH+:21](C(C)C)[H:20].Cc1cc(C)c2c(c(NCCC[NH+](C)C)cc[n:10]2)c1[N+](=O)[O-]>>CCC(C)[NH:21]C(C)C.Cc1cc(C)c2c(c(NCCC[NH+](C)C)cc[n+:10]2[H:20])c1[N+](=O)[O-] 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)NCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)NCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH2+]CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH2+]CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+](C)Cc1cc(O)c(O)c(C[N:10](C)C)c1.[NH3+]CCCC[NH2+]CCC[NH2+:21][H:20]>>C[NH+](C)Cc1cc(O)c(O)c(C[N+:10](C)(C)[H:20])c1.[NH3+]CCCC[NH2+]CCC[NH2:21] 10=20;20,21=21",
"Brc1ccc(CC[NH2:10])cc1.N=C(N)Nc1nc(N)nc(N/C(N)=[NH+:21]/[H:20])n1>>Brc1ccc(CC[NH2+:10][H:20])cc1.N=C(N)Nc1nc(N)nc(NC(N)=[NH:21])n1 10=20;20,21=21",
"CC(C)[NH2+]CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)[NH2+]CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[NH:10]C[Si](C)(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[NH+:10](C[Si](C)(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[NH+](C)c1ccc(/N=N/c2cc[n+:21]([H:20])cc2)cc1.NC(=O)NOCCC([NH3+])C(=O)[O-:10]>>C[NH+](C)c1ccc(/N=N/c2cc[n:21]cc2)cc1.NC(=O)NOCCC([NH3+])C(=O)[O:10][H:20] 10=20;20,21=21",
"[H:20][NH2+:21]CCCl.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.C(CCl)[NH2:21] 10=20;20,21=21",
"CCOC(=O)C(C)[NH2:10].C[N+:21]1([H:20])CC[C@]23c4c5ccc(OCc6ccccc6)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5>>CCOC(=O)C(C)[NH2+:10][H:20].C[N:21]1CC[C@]23c4c5ccc(OCc6ccccc6)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5 10=20;20,21=21",
"C[NH2:10].c1ccc(C(=N[O:21][H:20])c2ccccc2)cc1>>C[NH2+:10][H:20].c1ccc(C(=N[O-:21])c2ccccc2)cc1 10=20;20,21=21",
"C[NH:10]CCC(=O)c1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCC(=O)c1ccccc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCO[C@H]1C[C@@H]1C(=O)[O:21][H:20].NC1=[N:10][C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-]>>CCO[C@H]1C[C@@H]1C(=O)[O-:21].NC1=[N+:10]([H:20])[C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-] 10=20;20,21=21",
